US05366982
methyl 2-ethyl-6-[(4.6-diphenyl-2-pyridyl)oxy]hexanoate.
The procedure in Example 5 is followed but using 4,6-diphenyl-2-pyridinone (2.8 g) (prepared by analogy with the method described in Patent EP 108 592 from methyl butanoate), methyl 6-bromo-2-ethylhexanoate (5.4 g), silver carbonate (1.6 g) and dimethylformamide (100 cc). The reaction mixture is heated at 100° C. for 31 hours then at 120° C. for 40 hours. The product is purified by chromatography under pressure on silica gel (30-60 mm; eluent: n-hexane-ethyl acetate 9-1). (yellow oil)

reactant | 4,6-diphenyl-2-pyridinone | 2.8 g | C1(=CC=CC=C1)C1=CC(NC(=C1)C1=CC=CC=C1)=O | C17H13NO
reactant | methyl butanoate | C(CCC)(=O)OC | C5H10O2
reactant | methyl 6-bromo-2-ethylhexanoate | 5.4 g | BrCCCCC(C(=O)OC)CC | C9H17BrO2
catalyst | silver carbonate | 1.6 g | C([O-])([O-])=O.[Ag+2]
solvent | dimethylformamide | 100 cc | CN(C=O)C | C3H7NO
product | methyl 2-ethyl-6-[(4.6-diphenyl-2-pyridyl)oxy]hexanoate | C(C)C(C(=O)OC)CCCCOC1=NC(=CC(=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C26H29NO3
